US05302718
Isobutyl 2-acetyloxy-5-[2-(4-sulfophenyl)ethenyl]benzoate potassium salt
Isobutyl 2-hydroxy-5-[2-(4-sulfophenyl)ethenyl]benzoate dipotassium salt (37.2 g, 0.09 mol) was added to a boiling solution of acetic acid (20 ml) and acetic anhydride (80 ml). Sulfuric acid (8 ml) was added cautiously and the mixture refluxed until the major part of the solids had dissolved, and then more acetic anhydride (80 ml) was added. After boiling for 1 h, the mixture was cooled to room temperature. Diethyl ether (350 ml) was added and the suspension filtered and washed with diethyl ether. Yield 36.1 g (88%)

reactant | Isobutyl 2-hydroxy-5-[2-(4-sulfophenyl)ethenyl]benzoate dipotassium salt | 0.09 mol, 37.2 g | [K].[K].OC1=C(C(=O)OCC(C)C)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)O
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | Sulfuric acid | 8 ml | S(O)(O)(=O)=O | H2O4S
reactant | acetic anhydride | 80 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | Diethyl ether | 350 ml | C(C)OCC | C4H10O
product | Isobutyl 2-acetyloxy-5-[2-(4-sulfophenyl)ethenyl]benzoate potassium salt | [K].C(C)(=O)OC1=C(C(=O)OCC(C)C)C=C(C=C1)C=CC1=CC=C(C=C1)S(=O)(=O)O | InChI=1S/C21H22O7S.K/c1-14(2)13-27-21(23)19-12-17(8-11-20(19)28-15(3)22)5-4-16-6-9-18(10-7-16)29(24,25)26;/h4-12,14H,13H2,1-3H3,(H,24,25,26);
